resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.016992
R2 0 n2 1.004806
R3 0 n4 1.005775
R4 n1 n3 1.001629
R5 n1 n5 1.000411
R6 n2 n3 0.984793
R7 n2 n6 1.016801
R8 n3 n7 0.998231
R9 n4 n5 0.994646
R10 n4 n6 1.018785
R11 n5 n7 22.364441
R12 n6 n7 1.017778
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
